US06933299B1
3-(5-{4-[4-(3-Fluoro-benzyloxy)-3-chloroanilino]-6-quinazolinyl}-2-furyl)-N-[2-(phenylsulfonyl)ethyl]-2-propenamide
Prepared according to Procedure (I) utilizing 3-(5-{4-[4-(3-fluorobenzyloxy)-3-chloroanilino]6-quinazolinyl}-2-furyl)-2-propenoic acid (0.25 g, 0.45 mmol), 2-(phenylsulfonyl)-ethylamine hydrochloride (0.30 g, 1.36 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.26 g, 1.36 mmol) and diisopropylethylamine (0.55 mL, 3.18 mmol) in acetonitrile. Electrospray MS m/z 683 (MH+).

reactant | 3-(5-{4-[4-(3-fluorobenzyloxy)-3-chloroanilino]6-quinazolinyl}-2-furyl)-2-propenoic acid | 0.45 mmol, 0.25 g | FC=1C=C(COC2=C(C=C(NC3=NC=NC4=CC=C(C=C34)C3=CC=C(O3)C=CC(=O)O)C=C2)Cl)C=CC1 | C28H19ClFN3O4
reactant | 2-(phenylsulfonyl)-ethylamine hydrochloride | 1.36 mmol, 0.30 g | Cl.C1(=CC=CC=C1)S(=O)(=O)CCN
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.36 mmol, 0.26 g | Cl.CN(CCCN=C=NCC)C
reactant | diisopropylethylamine | 3.18 mmol, 0.55 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-(5-{4-[4-(3-Fluoro-benzyloxy)-3-chloroanilino]-6-quinazolinyl}-2-furyl)-N-[2-(phenylsulfonyl)ethyl]-2-propenamide | FC=1C=C(COC2=C(C=C(NC3=NC=NC4=CC=C(C=C34)C3=CC=C(O3)C=CC(=O)NCCS(=O)(=O)C3=CC=CC=C3)C=C2)Cl)C=CC1 | C36H28ClFN4O5S
